US05274003
Preparation of 2-[N-n-propyl,N-2-(phenyloxy)ethyl-amino]-5-methoxytetralin
A mixture of 2-(N-n-propylamino)-5-methoxytetralin (7.0 g, 0 0319 mol; prepared according to J. Chem. Soc., 1965, pp. 26-36), phenoxyacetic acid (4.86 g, 0.0319 mol), and borane trimethylamine complex (2.33 g, 0.0319 mol) was refluxed in xylenes overnight. The cooled reaction mixture was extracted with NaHCO3 and the organic layer was dried over MgSO4, filtered and concentrated under reduced pressure. The resulting oil was subjected to flash chromatography (silica; 9:1 pet ether/EtOAc) and product was isolated: NMR of the free base (300 MHz, CDCl3): δ 7.3-6.6(m, 8H), 4.0(t, 2H), 3.7(s, 3H), 3.1-2.5(m, 9H), 2.1(m, 1H), 1.7-1.4(m, 3H), 0.9(t, 3H). The free base thus isolated was converted to hydrochloride salt by the addition of dry ether-HCL.

reactant | 2-(N-n-propylamino)-5-methoxytetralin | C(CC)NC1CC2=CC=CC(=C2CC1)OC | C14H21NO
reactant | phenoxyacetic acid | 0.0319 mol, 4.86 g | O(C1=CC=CC=C1)CC(=O)O | C8H8O3
reactant | borane trimethylamine complex | 0.0319 mol, 2.33 g | [B-][N+](C)(C)C | C3H9BN
solvent | ether | CCOCC | C4H10O
product | 2-[N-n-propyl,N-2-(phenyloxy)ethyl-amino]-5-methoxytetralin | C(CC)N(CCOC1=CC=CC=C1)C1CC2=CC=CC(=C2CC1)OC | C22H29NO2
